US06353006B1
A suspension of 6-amino-3-cyano-2,4-dimethylpyridine (0.1 g, 0.68 mmol) in CH2Cl2 (1 mL) was added to a vigorously stirred mixture of CaCO3 (0.41 g, 4.11 mmol) in a 1:2 water:CH2Cl2 mixture (9 mL total) at room temp. The reaction mixture was cooled to 0° C. and thiophosgene (0.09 g, 0.78 mmol) was added dropwise. The resulting mixture was allowed to warm to room temp and was stirred overnight. The resulting aqueous layer was back-extracted with CH2Cl2 (3×10 mL). The combined organic layers were washed with water (10 mL), dried (MgSO4) and concentrated under reduced pressure. The residue was purified by chromatography (SiO2, 10% EtOAc/hex) to give 2,4-dimethyl-3-cyano-6-pyridyl isothiocyanate (0.12 g, 91%): CI-MS m/z 190 ((M+H)+).

reactant | 6-amino-3-cyano-2,4-dimethylpyridine | 0.68 mmol, 0.1 g | NC1=CC(=C(C(=N1)C)C#N)C | C8H9N3
reactant | CaCO3 | 4.11 mmol, 0.41 g | C(=O)([O-])[O-].[Ca+2]
reactant | water | O | H2O
reactant | thiophosgene | 0.78 mmol, 0.09 g | C(=S)(Cl)Cl | CCl2S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dimethyl-3-cyano-6-pyridyl isothiocyanate | 0.12 g, 91% | CC1=NC(=CC(=C1C#N)C)N=C=S | C9H7N3S
